US07893056B2
A mixture of (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (230 mg, 0.76 mmol), 5-fluoro-6-hydrazino-N,2-dimethyl-N-[2-(4-pyridinyl)ethyl]-4-pyrimidinamine (210 mg, 0.76 mmol), EDC (180 mg, 0.91 mmol), HOAt (120 mg, 0.91 mmol), and NMM (0.25 mL, 2.28 mmol) in 5 ml DMF was stirred at room temperature overnight. The reaction mixture was then purified via reverse phase HPLC to provide {(2R)-2-(cyclopentylmethyl)-3-[2-(5-fluoro-2-methyl-6-{methyl[2-(4-pyridinyl)ethyl]amino}-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide (290 mg, 67%). LCMS: (M+H)+: 564.3.

reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.76 mmol, 230 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 5-fluoro-6-hydrazino-N,2-dimethyl-N-[2-(4-pyridinyl)ethyl]-4-pyrimidinamine | 0.76 mmol, 210 mg | FC=1C(=NC(=NC1NN)C)N(CCC1=CC=NC=C1)C | C13H17FN6
reactant | EDC | 0.91 mmol, 180 mg
reactant | HOAt | 0.91 mmol, 120 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 2.28 mmol, 0.25 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | {(2R)-2-(cyclopentylmethyl)-3-[2-(5-fluoro-2-methyl-6-{methyl[2-(4-pyridinyl)ethyl]amino}-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide | 290 mg, 67% | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N(CCC1=CC=NC=C1)C)C | C30H38FN7O3
